US05644057
A solution of 3-Amino-2-ethoxycarbonyl-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole (2.0 g, 7 mmol) in 20 mL of formamide was heated at 140° C. for 12 h. After cooling the mixture was poured into water and the resulting solid was collected and washed with more water and dried to afford 5-Methyl-7-(2,4,6-trimethylphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol as a tan solid melting at 230°-232° C.

reactant | 3-Amino-2-ethoxycarbonyl-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole | 7 mmol, 2.0 g | NC1=C(N(C=C1C1=C(C=C(C=C1C)C)C)C)C(=O)OCC | C17H22N2O2
reactant | water | O | H2O
reactant | formamide | 20 mL | C(=O)N | CH3NO
product | 5-Methyl-7-(2,4,6-trimethylphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol | CN1C=C(C=2N=CN=C(C21)O)C2=C(C=C(C=C2C)C)C | C16H17N3O
